US08541576B2
Preparation of ethyl 1-(2-hydroxyethyl)-8-methoxy-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate. (St. 4)
To a suspension of ethyl 1-(2-hydroxyethyl)-8-methoxy-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate 1.2 g (3.76 mmol) in toluene (20 ml), 500 mg (2.2 mmol) 4,5-dichloro-3,6-dioxocyclohexa-1,4-diene-1,2-dicarbonitrile were added. The mixture was submitted to microwave irradiation at 100° for 3 hours in a sealed vial. The volatiles were evaporated, the crude was dissolved with ethyl acetate and portioned with sat. NaHCO3, the organic layer concentrated to dryness. The residue was purified by chromatography (ethyl acetate/hexane 7/3) to afford the desired compound 520 mg (46%). HRMS (ESI) calcd for C15H16N4O4 [M+H]+ 317.3119 found 317.3126.

reactant | ethyl 1-(2-hydroxyethyl)-8-methoxy-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 3.76 mmol, 1.2 g | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)OC)C(=O)OCC | C15H18N4O4
reactant | 4,5-dichloro-3,6-dioxocyclohexa-1,4-diene-1,2-dicarbonitrile | 2.2 mmol, 500 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-(2-hydroxyethyl)-8-methoxy-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 520 mg, 46% | OCCN1N=C(C=2C=CC=3C=NC(=NC3C21)OC)C(=O)OCC | C15H16N4O4
